US07951828B1
Step 2: Production of N-chloroacetyl-N′-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methylbenzoyl]-N′-methyl urea
In a solution of 0.86 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl-N-methyl benzoic acid amide in 10 mL of toluene, 0.36 g of chloroacetyl isocyanate was added, and stirred at 50° C. for 24 hours. After the completion of the reaction, the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethyl acetate-hexane (gradient of 0:1 to 3:2) to obtain 0.93 g of the aimed product as colorless oily substance.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl-N-methyl benzoic acid amide | 0.86 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NC)C=C1)C)C(F)(F)F | C19H15Cl2F3N2O2
reactant | chloroacetyl isocyanate | 0.36 g | ClCC(=O)N=C=O | C3H2ClNO2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-chloroacetyl-N′-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methylbenzoyl]-N′-methyl urea | 0.93 g | ClCC(=O)NC(=O)N(C)C(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C22H17Cl3F3N3O4
